US09108983B2
6-[4-(Ethoxycarbonyl)-1-methyl-1H-pyrrol-2-yl]-1,3-benzodioxole-5-carboxylic acid
The procedure is in accordance with the process of Preparation 1, replacing, on the one hand, the ethyl 2-methyl-1H-pyrrole-3-carboxylate used in Step A by ethyl 1H-pyrrole-3-carboxylate and, on the other hand, the 2-bromo-4-chlorobenzaldehyde used in Step B by 6-bromo-1,3-benzodioxole-5-carbaldehyde.

reactant | ethyl 2-methyl-1H-pyrrole-3-carboxylate | CC=1NC=CC1C(=O)OCC | C8H11NO2
reactant | ethyl 1H-pyrrole-3-carboxylate | N1C=C(C=C1)C(=O)OCC | C7H9NO2
reactant | 2-bromo-4-chlorobenzaldehyde | BrC1=C(C=O)C=CC(=C1)Cl | C7H4BrClO
reactant | 6-bromo-1,3-benzodioxole-5-carbaldehyde | BrC=1C(=CC2=C(OCO2)C1)C=O | C8H5BrO3
product | 6-[4-(Ethoxycarbonyl)-1-methyl-1H-pyrrol-2-yl]-1,3-benzodioxole-5-carboxylic acid | C(C)OC(=O)C=1C=C(N(C1)C)C=1C(=CC2=C(OCO2)C1)C(=O)O | C16H15NO6
